US05284847
6-Phenylthieno(2,3-b]pyrazine-2,3(1H,4H)-dione
2-Ethoxalylamino-5-phenyl-3-nitrothiophene (641 mg, 2 mmol) was suspended in 35 ml of 80% acetic acid, and 1.31 g (20 mmol) of zinc dust was added in one portion with stirring. After 2 hours 70 ml of water was slowly added to the suspension, and the precipitate was isolated by filtration (483 mg). This crude product was purified by suspending in 20 ml of methylene chloride, filtering, and subsequent crystallisation by dissolving in 50 ml of boiling acetic acid and slow addition of 30 ml of water. The yield was 87 mg (17.8%) of the title compound as crystals, melting over 300° C. 1H-NMR (DMSO-D6, δ): 7.05 (s, 1H), 7.3 (t, 1H), 7.4 (t, 2H), 7.6 (d, 2H), 11.9-12.5 (broad, 2H).

reactant | 2-Ethoxalylamino-5-phenyl-3-nitrothiophene | 2 mmol, 641 mg | C(=O)(C(=O)OCC)NC=1SC(=CC1[N+](=O)[O-])C1=CC=CC=C1 | C14H12N2O5S
reactant | water | 70 ml | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 20 mmol, 1.31 g | [Zn] | Zn
product | 6-Phenylthieno(2,3-b]pyrazine-2,3(1H,4H)-dione | C1(=CC=CC=C1)C1=CC2=C(NC(C(N2)=O)=O)S1 | C12H8N2O2S
